US05175157
3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-pyridinium-3-yl)-methyl]7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one bromide
A mixture of 1.1 g (0.0035 mol) of 3-[(pyridin-3-yl)methyl]-7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one and 2-(3,4-dimethoxyphenyl)-ethyl bromide is heated to 110° C. for 6 hours. After cooling, the reaction mixture is dissolved in a little methanol/ methylene chloride and added dropwize to 200 ml of diethylether, with vigorous stirring. The precipitate obtained is suction filtered and dried. Yield: 1.6 g (80% of theory), Melting point: 147°-150° C.

reactant | 3-[(pyridin-3-yl)methyl]-7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.0035 mol, 1.1 g | N1=CC(=CC=C1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H18N2O3
reactant | 2-(3,4-dimethoxyphenyl)-ethyl bromide | COC=1C=C(C=CC1OC)CCBr | C10H13BrO2
reactant | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | 3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-pyridinium-3-yl)-methyl]7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one bromide | [Br-].COC=1C=C(C=CC1OC)CC[N+]1=CC(=CC=C1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C28H31N2O5.BrH/c1-32-24-8-7-20(14-25(24)33-2)9-12-29-11-5-6-21(18-29)19-30-13-10-22-15-26(34-3)27(35-4)16-23(22)17-28(30)31;/h5-8,10-11,13-16,18H,9,12,17,19H2,1-4H3;1H/q+1;/p-1
